### PR TITLE
Add Erdős Problem 720 (size Ramsey numbers of paths and cycles), link the formal proof

### LINKED ISSUE #6392: Erdős Problem 720
### What is the Erdős problem?

https://www.erdosproblems.com/720

Let $\hat{R}(G)$ denote the size Ramsey number. Is it true that, if $P_n$ is the path of length $n$, then $\hat{R}(P_n)/n\to \infty$ and $\hat{R}(P_n)/n^2 \to 0$? Is it true that, if $C_n$ is the cycle with $n$ edges, then $\hat{R}(C_n) =o(n^2)$?

Status: answered by Beck [Be83b] ($\hat{R}(P_n)\ll n$, $\hat{R}(C_n)\ll n$). A formal proof exists in plby/lean-proofs (`Erdos720.erdos_720`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6392.

### What changed
Adds `FormalConjectures/ErdosProblems/720.lean`, using the existing `SimpleGraph.sizeRamsey` ($100 problem):
- `erdos_720.parts.i` (`answer(False)`): `R̂(Pₙ)/n → ∞` fails.
- `erdos_720.parts.ii` (`answer(True)`): `R̂(Pₙ) = o(n²)`.
- `erdos_720.parts.iii` (`answer(True)`): `R̂(Cₙ) = o(n²)`.
- `variants.beck`: `R̂(Pₙ), R̂(Cₙ) ≪ n`.

All linked to plby/lean-proofs `Erdos720.erdos_720` (Codex and GPT-5.6 Sol; 23 Mathlib-only files).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos720.erdos_720` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms (`sizeRamsey` as `sInf` vs plby's `Nat.find`):

<details>
<summary>Bridge</summary>

```lean
open Filter SimpleGraph

namespace Bridge720

lemma sizeRamsey_eq {W : Type*} [Fintype W] (G : SimpleGraph W) :
    sizeRamsey G G = Erdos720Plby.sizeRamsey G := by
  unfold sizeRamsey Erdos720Plby.sizeRamsey
  have hS : {m | ∃ (n : ℕ) (F : SimpleGraph (Fin n)), F.edgeSet.ncard = m ∧
      ∀ R : SimpleGraph (Fin n), R ≤ F → G.IsContained R ∨ G.IsContained (F \ R)} =
      {m | Erdos720Plby.IsSizeRamseyWitness G m} := by
    ext m
    simp only [Set.mem_ofPred_eq, Erdos720Plby.IsSizeRamseyWitness, Erdos720Plby.Arrows,
      Nat.card_coe_set_eq]
  rw [hS, Nat.sInf_def ⟨_, (Erdos720Plby.exists_sizeRamseyWitness G).choose_spec⟩]

theorem parts_i : type_of% Erdos720.erdos_720.parts.i := by
  show False ↔ _
  simp only [false_iff, Erdos720.sizeRamseyNumber, sizeRamsey_eq]
  exact Erdos720Plby.erdos_720.1

theorem parts_ii : type_of% Erdos720.erdos_720.parts.ii := by
  show True ↔ _
  simp only [true_iff, Erdos720.sizeRamseyNumber, sizeRamsey_eq]
  exact Erdos720Plby.erdos_720.2.1

theorem parts_iii : type_of% Erdos720.erdos_720.parts.iii := by
  show True ↔ _
  simp only [true_iff, Erdos720.sizeRamseyNumber, sizeRamsey_eq]
  exact Erdos720Plby.erdos_720.2.2.1

theorem beck : type_of% Erdos720.erdos_720.variants.beck := by
  simp only [Erdos720.sizeRamseyNumber, sizeRamsey_eq]
  obtain ⟨-, -, -, hp, hc⟩ := Erdos720Plby.erdos_720
  refine ⟨6272 + Erdos720Plby.cycleRamseyEdgeConstant, ?_⟩
  filter_upwards [hp, hc] with n hpn hcn
  constructor
  · exact hpn.trans (Nat.mul_le_mul_right n (Nat.le_add_right _ _))
  · exact hcn.trans (Nat.mul_le_mul_right n (Nat.le_add_left _ _))

#print axioms Erdos720Plby.erdos_720
#print axioms parts_i
#print axioms parts_ii
#print axioms parts_iii
#print axioms beck

end Bridge720
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«720»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/720.lean [hunk 1]
```diff
@@ -0,0 +1,100 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/720.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
